US03974284
An amount of 464 mb (2mMoles) of 1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cyclohepten-11-one is dissolved in 15 ml of a 15% solution of ammonia in methanol, and the solution allowed to stand in a closed flask for 48 hours at 20°. An addition is then made at ca. 20°, with stirring, of 152 mg of sodium borohydride. After 30 minutes, the reaction mixture is briefly refluxed and again cooled. Processing is carried out analogously to Example 1 to obtain 1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cycloheptene-11-amine; M.P. 126°-127°.

reactant | 1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cyclohepten-11-one | 2mMoles | C12C3C4=C(C(C5=C(C31)C=CC=C5)C2=O)C=CC=C4 | C17H12O
reactant | sodium borohydride | 152 mg | [BH4-].[Na+]
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cycloheptene-11-amine | C12C3C4=C(C(C5=C(C31)C=CC=C5)C2N)C=CC=C4 | C17H15N
